US03953465
(3-Trifluoromethylphenoxy) (4-chlorophenyl)acetamide, (33.0 g., 0.1 mole) is dissolved in 250 ml. of phosphorus oxychloride and triethylamine (22.2 g.) is added over a 45-minute period with stirring while maintaining the temperature of the solution at 0°-2°C. Over a period of an hour the temperature is allowed to rise to 25°C. and then the solution is heated under reflux for 30 minutes. The solution is concentrated in vacuo (about 200 mm.) to remove volatile products and excess phosphorus oxychloride. Toluene (150 ml.) and ice water (250 ml.) are added to the residue. The toluene layer is separated and the aqueous phase is extracted with 3 × 75 ml. of toluene. The toluene solutions are combined and extracted with 0.5 N sodium hydroxide and then with water. The toluene solvent is removed in vacuo and the residue is distilled in vacuo (0.3 mm.). (3-Trifluoromethylphenoxy) (4-chlorophenyl)acetonitrile (27.6 g.) boiling at 144°-145°C. is obtained.

reactant | (3-Trifluoromethylphenoxy) (4-chlorophenyl)acetamide | FC(C=1C=C(OC(C(=O)N)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H11ClF3NO2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | triethylamine | 22.2 g | C(C)N(CC)CC | C6H15N
product | (3-Trifluoromethylphenoxy) (4-chlorophenyl)acetonitrile | 27.6 g | FC(C=1C=C(OC(C#N)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H9ClF3NO
